US06384033B1
2) N-t-Butyl-5-fluoro-2-pyridinecarboxamide
The title compound was prepared by the same method as that described in Example 39-3), using 5-fluoro-2-pyridinecarboxylic acid and t-butyl amine.

reactant | 5-fluoro-2-pyridinecarboxylic acid | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | t-butyl amine | C(C)(C)(C)N | C4H11N
product | N-t-Butyl-5-fluoro-2-pyridinecarboxamide | C(C)(C)(C)NC(=O)C1=NC=C(C=C1)F | C10H13FN2O
